US07625889B2
Step 3: 5-Bromo-indazole-1-carboxylic acid tert-butyl ester:
Di-tert-butyldicarbonate (11.4 g, 52.21 mmol), triethylamine (6.27 g, 62.16 mmol) and 4-(N,N-dimethylaminopyridine (304 mg, 2.49 mmol) were added sequentially to a solution of 5-bromoindazole (9.8 g, 49.73 mmol) in tetrahydrofuran at room temperature. The mixture was stirred at room temperature for 71.5 h and then it was heated at reflux for 16 h. The volatiles were removed in vacuo and the residue was dissolved in dichloromethane and washed with brine, dried over magnesium sulfate, filtered and concentrated to leave the crude product. Chromatography (elution with diethyl ether/heptane) gave 13.98 g of the title compound. LC: Retention time, 3.93 min.

reactant | Di-tert-butyldicarbonate | 52.21 mmol, 11.4 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 62.16 mmol, 6.27 g | C(C)N(CC)CC | C6H15N
reactant | 5-bromoindazole | 49.73 mmol, 9.8 g | BrC=1C=C2C=NNC2=CC1 | C7H5BrN2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-Bromo-indazole-1-carboxylic acid tert-butyl ester | 13.98 g | C(C)(C)(C)OC(=O)N1N=CC2=CC(=CC=C12)Br | C12H13BrN2O2
